US04680303
To a solution of sulphinyl chloride (260 g) in chloroform (450 cc) maintained at a temperature below 10° C., 3-hydroxypropyl(6-methyl-2-pyridyl)methyl ether (339 g) is added in the course of 30 minutes. The mixture is then heated gradually and then maintained boiling for 1 hour. After being cooled to about 20° C., the mixture is concentrated under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The product obtained is dissolved in distilled water (1,000 cc) and the solution obtained is washed 3 times with diethyl ether (1,035 cc in total), filtered and then neutralised in the presence of diethyl ether (670 cc) with sodium bicarbonate (160 g). The decanted aqueous phase is saturated with sodium chloride and then extracted 3 times with diethyl ether (600 cc in total). The extracts are combined, dried over anhydrous magnesium sulphate in the presence of decolorising charcoal (17 g) and filtered. The filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa). 3-Chloropropyl(6-methyl-2-pyridyl)methyl ether (359.4 g) is thereby obtained in the from of a brown oil, and this is used as it is in the subsequent syntheses.

reactant | sulphinyl chloride | 260 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxypropyl(6-methyl-2-pyridyl)methyl ether | 339 g | OCCCC(C1=NC(=CC=C1)C)OC(CCCO)C1=NC(=CC=C1)C | C20H28N2O3
reactant | chloroform | 450 cc | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1,000 cc | O | H2O
product | 3-Chloropropyl(6-methyl-2-pyridyl)methyl ether | 359.4 g | ClCCCC(C1=NC(=CC=C1)C)OC(CCCCl)C1=NC(=CC=C1)C | C20H26Cl2N2O
